US06313094B1
[Process 1] Boc-Thz-NH—C(CH3)2—CH2OH
In a methylene chloride solution containing 0.30 g of Boc-Thz-OH, 0.12 ml of 2-amino-2-methyl-1-propanol and 0.29 g of EDC hydrochloride were added and the resultant mixture was stirred for 14 hr. The reaction mixture was treated similarly to that in Example 33 (Process 3) to give 190 mg of the title compound.

reactant | Boc-Thz-OH | 0.30 g | N1([C@H](C(=O)O)CSC1)C(=O)OC(C)(C)C | C9H15NO4S
reactant | 2-amino-2-methyl-1-propanol | 0.12 ml | NC(CO)(C)C | C4H11NO
reactant | EDC hydrochloride | 0.29 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Boc-Thz-NH—C(CH3)2—CH2OH | 190 mg | N1([C@H](C(=O)NC(C)(C)CO)CSC1)C(=O)OC(C)(C)C | C13H24N2O4S
